US08536179B2
c) 1-Isopropyl-6-(trifluoromethyl)-1H-indole-4-carboxylic acid
To a solution of 1-(1-methylethyl)-6-(trifluoromethyl)-1H-indole-4-carbonitrile (180 mg, 0.714 mmol) in ethanol (5 mL) was added 10% sodium hydroxide (5 mL, 0.714 mmol), and the mixture was heated at reflux overnight. The mixture was concentrated to remove EtOH and the aqueous phase was acidified using 1N HCl to ˜pH 4. The precipitate was collected by filtration and dried under high vacuum to give the title compound (167 mg, 86%) as brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43-1.60 (m, 6H), 4.96-5.13 (m, 1H), 7.11 (d, J=3.28 Hz, 1H), 7.89-8.05 (m, 2H), 8.25 (s, 1H), 13.15 (br. s., 1H). MS: (M+H)+=272.0.

reactant | 1-(1-methylethyl)-6-(trifluoromethyl)-1H-indole-4-carbonitrile | 0.714 mmol, 180 mg | CC(C)N1C=CC=2C(=CC(=CC12)C(F)(F)F)C#N | C13H11F3N2
reactant | sodium hydroxide | 0.714 mmol, 5 mL | [OH-].[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | 1-Isopropyl-6-(trifluoromethyl)-1H-indole-4-carboxylic acid | 167 mg, 86% | C(C)(C)N1C=CC=2C(=CC(=CC12)C(F)(F)F)C(=O)O | C13H12F3NO2
